US04853414
Methyl 4-methyl-2,3,5,6-tetrafluorobenzoate (1.0 g) was added to a solution of sodium methoxide obtained by dissolving sodium metal (0.15 g) in dry methanol (15 cm3) and the mixture heated at the reflux temperature for 2 hours until the reaction was complete. The product was purified by h.p.l.c. (Gilson) using a silica column and as eluent a mixture of petroleum ether (boiling range 40°-60° C., 1800 cm3) and diethyl ether (200 cm3), to obtain methyl 2-methoxy-4-methyl-3,5,6-trifluorobenzoate (0.38 g).

reactant | Methyl 4-methyl-2,3,5,6-tetrafluorobenzoate | 1.0 g | CC1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C9H6F4O2
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.15 g | [Na] | Na
solvent | methanol | 15 cm3 | CO | CH4O
product | methyl 2-methoxy-4-methyl-3,5,6-trifluorobenzoate | 0.38 g | COC1=C(C(=O)OC)C(=C(C(=C1F)C)F)F | C10H9F3O3
